US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 3-fluoro-4-trifluoromethylaniline were reacted to yield N2,N4-bis(3-fluoro-4-trifluoromethylphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 8.01 (d, 1H, J=3 Hz), 7.77 (m, 3H), 7.61 (dt, 1H, J=4.2 and 3 Hz), 7.20 (t, 1H, 8.7 Hz), 7.12 (t, 1H, J=9.3 Hz), 6.95 (s, 1H), 6.82 (s, 1H); 19F NMR (CDCl3): δ −17505 (s, 3F), −17517 (s, 3F), −17525 (s, F), −17537 (s, F), −46835 (s, 1F); LCMS: ret. time: 32.39 min.; purity: 95%, MS (m/e): 453 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-fluoro-4-trifluoromethylaniline | FC=1C=C(N)C=CC1C(F)(F)F | C7H5F4N
product | N2,N4-bis(3-fluoro-4-trifluoromethylphenyl)-5-fluoro-2,4-pyrimidinediamine | FC=1C=C(C=CC1C(F)(F)F)NC1=NC=C(C(=N1)NC1=CC(=C(C=C1)C(F)(F)F)F)F | C18H9F9N4
